US08669271B2
4-[5-(4-Methanesulfonyl-phenyl)-furo[3,2-b]pyridin-2-yl]-piperidine-1-carboxylic acid tert-butyl ester
To a mixture of 4-(5-chloro-furo[3,2-b]pyridin-2-yl)-piperidine-1-carboxylic acid tert-butyl ester (50 mg) and 4-(methanesulfonyl)phenyl boronic acid (45 mg) in [1,4]dioxane (1.5 mL) in a microwave oven suited vessel charged with a stir bar a 2 M aqueous Na2CO3 solution (1904) is added. The mixture is sparged with argon for 10 min and Pd(PPh3)4 (21 mg) is added. The vessel is capped and the mixture is stirred under microwave irradiation at 140° C. for 35 min. After cooling the mixture to room temperature, dichloromethane and water are added. The organic phase is washed with brine, dried (MgSO4) and the solvent is evaporated. The crude product is purified by HPLC on reversed phase (MeOH/H2O/TFA). Yield: 25 mg (37% of theory); LC (method 2): tR=1.36 min; Mass spectrum (ESI+): m/z=457 [M+H]+.

reactant | 4-(5-chloro-furo[3,2-b]pyridin-2-yl)-piperidine-1-carboxylic acid tert-butyl ester | 50 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC2=NC(=CC=C2O1)Cl | C17H21ClN2O3
reactant | 4-(methanesulfonyl)phenyl boronic acid | 45 mg | CS(=O)(=O)C1=CC=C(C=C1)B(O)O | C7H9BO4S
reactant | Na2CO3 | 2 M | C(=O)([O-])[O-].[Na+].[Na+]
solvent | [1,4]dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
product | 4-[5-(4-Methanesulfonyl-phenyl)-furo[3,2-b]pyridin-2-yl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC2=NC(=CC=C2O1)C1=CC=C(C=C1)S(=O)(=O)C | C24H28N2O5S
